.include xor.sub
.include fulladder.sub
.subckt Adder_subtract A3 A2 A1 A0 B3 B2 B1 B0 Cin S3 S2 S1 S0 Cout Vdd Gnd
xxor1 Cin B3 n3 Vdd Gnd xor
xxor2 Cin B2 n2 Vdd Gnd xor
xxor3 Cin B1 n1 Vdd Gnd xor
xxor4 Cin B0 n0 Vdd Gnd xor
xfulladder0 A0 n0 Cin S0 C0 Vdd Gnd fulladder
xfulladder1 A1 n1 C0 S1 C1 Vdd Gnd fulladder
xfulladder2 A2 n2 C1 S2 C2 Vdd Gnd fulladder
xfulladder3 A3 n3 C2 S3 Cout Vdd Gnd fulladder
.ends Adder_subtract