.include and.sub
.subckt Andblock A3 A2 A1 A0 B3 B2 B1 B0 Y3 Y2 Y1 Y0 Vdd Gnd  
xand0  A0 B0  Y0 Vdd Gnd and
xand1  A1 B1  Y1 Vdd Gnd and
xand2  A2 B2  Y2 Vdd Gnd and
xand3  A3 B3  Y3 Vdd Gnd and
.ends Andblock