.include and.sub
.subckt enable E A3 A2 A1 A0 B3 B2 B1 B0 Aen3 Aen2 Aen1 Aen0 Ben3 Ben2 Ben1 Ben0 Vdd Gnd
xand0 E A0 Aen0 Vdd Gnd and
xand1 E A1 Aen1 Vdd Gnd and
xand2 E A2 Aen2 Vdd Gnd and
xand3 E A3 Aen3 Vdd Gnd and
xand4 E B0 Ben0 Vdd Gnd and
xand5 E B1 Ben1 Vdd Gnd and
xand6 E B2 Ben2 Vdd Gnd and
xand7 E B3 Ben3 Vdd Gnd and
.ends enable