.include xor.sub
.include and.sub
.include or.sub
.subckt fulladder A B Cin S Cout Vdd Gnd
xxor1 A B n0 Vdd Gnd xor
xxor2 n0 Cin S Vdd Gnd xor
xand1 n0 cin n1 Vdd Gnd and
xand2 A B n2 Vdd Gnd and
xor1 n1 n2 Cout Vdd Gnd or
.ends fulladder